US09278910B2
Prepared using General Procedure 6: To a stirred solution of 2-methoxy-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid INT-23 (404 mg, 1.05 mmol), tert-butyl 2-((4-hydroxybenzyl)amino)acetate INT-22 (250 mg, 1.05 mmol) and TEA (367 μL, 2.63 mmol) in DMF (5 mL) was added HATU (421 mg, 1.11 mmol). After 2 h the reaction mixture was diluted with EA (100 mL) and washed with brine (2×150 mL). The organics were pre-absorbed onto silica gel and then purified by chromatography (EA/isohexanes) to afford 633 mg (99%) of tert-butyl 2-(N-(4-hydroxybenzyl)-2-methoxy-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)acetate INT-24 as a waxy solid. LCMS-ESI (m/z) calculated for C31H33F3N2O7: 602 found 601 [M−H]−, tR=2.29 min (Method 10). 1H NMR (400 MHz, DMSO 100° C.) δ 10.25 (s, 1H), 9.28 (s, 1H), 7.52-7.41 (m, 2H), 7.27-7.04 (m, 5H), 6.95 (d, J=8.0 Hz, 1H), 6.72 (dd, J=20.5, 7.9 Hz, 2H), 4.52 (br s, 1H), 4.22 (s, 1H), 3.81 (m, 9H), 3.62 (s, 1H), 1.40 (d, J=2.1 Hz, 4.5H), 1.30 (d, J=2.1 Hz, 4.5H).

reactant | 2-methoxy-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid | COC1=C(C(=O)O)C=CC(=C1)NC(CC1=C(C=C(C=C1)OC)C(F)(F)F)=O | C18H16F3NO5
reactant | tert-butyl 2-((4-hydroxybenzyl)amino)acetate | OC1=CC=C(CNCC(=O)OC(C)(C)C)C=C1 | C13H19NO3
reactant | HATU | 1.11 mmol, 421 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EA | 100 mL | CC(OCC)=O | C4H8O2
product | tert-butyl 2-(N-(4-hydroxybenzyl)-2-methoxy-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)acetate | 633 mg, 99% | OC1=CC=C(CN(C(C2=C(C=C(C=C2)NC(CC2=C(C=C(C=C2)OC)C(F)(F)F)=O)OC)=O)CC(=O)OC(C)(C)C)C=C1 | C31H33F3N2O7
